US07393868B2
4-Bromo-3-(methanesulfonylamino)-benzoic acid methyl ester
Add Na2SO4 (0.12 mmol) to a suspension of 4-Bromo-3-amino-benzoic acid methyl ester (0.1 mmol) and Et3N (0.1 mmol) in dichloromethane at 0° C. Stir 4 h at RT. Add a saturated solution of NaCl (15 mL), and extract with dichloromethane (2×50 mL). Dry over NaSO4, filter and evaporate to dryness. Purify the residue utilizing flash chromatography (Silica gel-hexane/EtOAc) to provide the title compound.

reactant | Na2SO4 | 0.12 mmol | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 4-Bromo-3-amino-benzoic acid methyl ester | 0.1 mmol | COC(C1=CC(=C(C=C1)Br)N)=O | C8H8BrNO2
reactant | Et3N | 0.1 mmol | CCN(CC)CC | C6H15N
reactant | NaCl | 15 mL | [Na+].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Bromo-3-(methanesulfonylamino)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)Br)NS(=O)(=O)C)=O | C9H10BrNO4S
